* source BUVKY
R_R1         0 N00744  10  
L_L1         N00712 N00744  125uH  
V_V2         N00627 0 10V
C_C1         0 N00744  4uF  
M_M3         N00627 N00659 N00712 N00712 IRF044
D_D3         0 N00712 D1N5820 
V_V1         N00659 0  
+PULSE 0V 15V 0 1ns 1ns 10us 20us
